resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.994598
R2 0 n2 0.980178
R3 0 n4 1.012811
R4 n1 n3 0.990584
R5 n1 n5 0.998709
R6 n2 n3 1.002573
R7 n2 n6 0.982687
R8 n3 n7 0.994392
R9 n4 n5 1.005291
R10 n4 n6 1.003192
R11 n5 n7 1.019113
R12 n6 n7 1.001416
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
